US07638536B2
To a solution of 0.50 g of N-(4-tert-butoxycarbonyl-2-fluorophenyl)isonipecotic acid ethyl ester in 5 ml of DMF, 0.21 g of N-chlorosuccinimide was added, and the mixture was stirred at room temperature for 1 day. After the evaporation of the solvent, the residue was purified by silica gel column chromatography (eluent: hexane-EtOAc=5:1˜1:1) to obtain 0.51 g of N-(4-tert-butoxycarbonyl-2-chloro-6-fluorophenyl)isonipecotic acid ethyl ester.

reactant | N-(4-tert-butoxycarbonyl-2-fluorophenyl)isonipecotic acid ethyl ester | 0.50 g | C(C)OC(C1CCN(CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)F)=O | C19H26FNO4
reactant | N-chlorosuccinimide | 0.21 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | N-(4-tert-butoxycarbonyl-2-chloro-6-fluorophenyl)isonipecotic acid ethyl ester | 0.51 g | C(C)OC(C1CCN(CC1)C1=C(C=C(C=C1F)C(=O)OC(C)(C)C)Cl)=O | C19H25ClFNO4
